US07947727B2
Intermediate 2: 1,1,1-Trifluoro-3-[(phenylmethyl)oxy]-2-{[(phenylmethyl)oxy]methyl}-2-propanol
A mixture of 1,3-dibenzyloxy-2-propanone (2 g) and (trifluoromethyl)trimethylsilane (2.56 ml, 2.3 equivalents) in dichloromethane (20 ml) was stirred and cooled to 0° C. A solution of 1M tetrabutylammonium fluoride in THF (4 ml) was added dropwise over 3 minutes. Initial addition of a few drops gave an exotherm of 10° C. Throughout the addition the batch temperature was maintained below 10° C. After completing the addition the dark brown mixture was stirred at +5° C. for 5 minutes when HPLC analysis indicated the reaction to be complete. The reaction mixture was stirred for an additional 5 minutes and then washed with 1M aqueous hydrochloric acid (15 ml), saturated sodium bicarbonate (15 ml) and 1% w/v aqueous sodium chloride solution (2×15 ml). The organic extract was concentrated in vacuo to give 2.5 g of the desired product as dark oil in 99.3% yield. The NMR spectrum of the product was concordant with a reference sample.

reactant | 1,3-dibenzyloxy-2-propanone | 2 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)=O | C17H18O3
reactant | (trifluoromethyl)trimethylsilane | 2.56 ml, 2.3 equivalents | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1,1,1-Trifluoro-3-[(phenylmethyl)oxy]-2-{[(phenylmethyl)oxy]methyl}-2-propanol | 2.5 g, 99.3% yield | FC(C(COCC1=CC=CC=C1)(O)COCC1=CC=CC=C1)(F)F | C18H19F3O3
